US04025641
0.60 g (0.020 mol) of 80% sodium hydride dispersion are added by portions, at 20°, under nitrogen and while stirring, to 4.02 g (0.0155 mol) of 6-(4-Isopentyloxy-butyloxy)-hexanol in 60 cc of absolute 1,2-dimethoxy-ethane. The mixture is stirred at 60° over the course of 2 hours, cooled to 0° and a solution of 3.65 g (0.017 mol) of piperonyl bromide in 40 cc of absolute 1,2-dimethoxy ethane is added dropwise over the course of 10 minutes. The mixture is stirred at 20° for 3 hours and then at 40° for 20 hours, neutralized with 6N sulphuric acid and together with 1.35 g (0.017 mol) of pyridine heated to 60° over the course of 2 further hours. The reaction product is taken up in ether, washed with water, 6N sulphuric acid, water and saturated sodium chloride solution, dried over magnesium sulphate and evaporated. After chromatography of the residue on silica gel with hexane/acetone (98:2) and (96:4), [6-(4-Isopentyloxybutyloxy)-hexyl]-piperonyl ether is obtained as a colourless oil.

reactant | sodium hydride | 0.020 mol, 0.60 g | [H-].[Na+]
reactant | 6-(4-Isopentyloxy-butyloxy)-hexanol | 0.0155 mol, 4.02 g | C(CC(C)C)OCCCCOCCCCCCO | C15H32O3
reactant | piperonyl bromide | 0.017 mol, 3.65 g | C(C1=CC=2OCOC2C=C1)Br | C8H7BrO2
reactant | sulphuric acid | 6N | S(O)(O)(=O)=O | H2O4S
reactant | pyridine | 0.017 mol, 1.35 g | N1=CC=CC=C1 | C5H5N
solvent | 1,2-dimethoxy-ethane | 60 cc | COCCOC | C4H10O2
solvent | 1,2-dimethoxy ethane | 40 cc | COCCOC | C4H10O2
solvent | ether | CCOCC | C4H10O
product | [6-(4-Isopentyloxybutyloxy)-hexyl]-piperonyl ether | C(CC(C)C)OCCCCOCCCCCCOCC1=CC=2OCOC2C=C1 | C23H38O5
